US04496572
A solution of 5-bromo-2-hydroxymethyl-3-methylbenzofuran (Annalen, 1112, 1973) (1.93 g) in dry ether (50 ml) was added dropwise to a stirred solution of n-butyl-lithium (12.90 ml of 1.55 M solution in hexane) in dry ether (50 ml) at 0° C. under an atmosphere of dry nitrogen. The mixture was stirred at 0° for 2 hours and then poured onto a mixture of crushed solid carbon dioxide and ether. When all the carbon dioxide had evaporated the mixture was shaken with water. The aqueous layer was separated, washed with ether and acidified with concentrated hydrochloric acid. The solid was filtered off, washed with water, dried and crystallised from isopropanol/petrol (b.p. 80°-100°) to give 2-hydroxymethyl-3-methylbenzofuran-5-carboxylic acid (0.50 g). m.p. 220°-222°.

reactant | 5-bromo-2-hydroxymethyl-3-methylbenzofuran | 1.93 g | BrC=1C=CC2=C(C(=C(O2)CO)C)C1 | C10H9BrO2
reactant | n-butyl-lithium | 1.55 M, 12.90 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-hydroxymethyl-3-methylbenzofuran-5-carboxylic acid | 0.50 g | OCC=1OC2=C(C1C)C=C(C=C2)C(=O)O | C11H10O4
